US08541588B2
5-chloro-4-fluoro-2-iodophenol
N-iodosuccinimide (4.61 g, 20.5 mmol), was suspended in glacial acetic acid (20 ml). To this suspension was added 3-chloro-4-fluorophenol (3.0 g, 20.0 mmol) and then concentrated sulphuric acid (0.36 ml, 6.14 mmol) was added dropwise over 5 minutes. The resulting brown/orange suspension was stirred at room temperature for 18 hours. The mixture was concentrated in vacuo and the residue was partitioned between water and dichloromethane, the dichloromethane was dried over anhydrous magnesium sulphate, filtered and concentrated in vacuo to give an orange/red oil. The crude product was purified by column chromatography on silica gel using 1:1 ethyl acetate:heptane to give the title compound as a pale orange/brown solid (3.50 g, 60% yield)

reactant | N-iodosuccinimide | 20.5 mmol, 4.61 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | 3-chloro-4-fluorophenol | 20.0 mmol, 3.0 g | ClC=1C=C(C=CC1F)O | C6H4ClFO
reactant | sulphuric acid | 6.14 mmol, 0.36 ml | S(O)(O)(=O)=O | H2O4S
reactant | heptane | CCCCCCC | C7H16
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 5-chloro-4-fluoro-2-iodophenol | 3.50 g, 60% yield | ClC=1C(=CC(=C(C1)O)I)F | C6H3ClFIO
